US04447425
Kiliani's reagent (100 ml) was added slowly to a solution of 3-methyl-5α-androst-2-en-17β-ol (43 g) in acetone (170 ml). When the addition was complete, water was added to give a precipitate, which was filtered off. The product was redissolved in acetone and water was again added. The precipitate was filtered off, washed with water and dried to give 3-methyl-5α-androst-2-en-17-one (35.7 g). A sample was recrystallised from ether-light petroleum (40°-60°) and from ether to give pure material, m.p. 124°-126°; [α]D +141° (c 0.48 in EtOH).

reactant | 3-methyl-5α-androst-2-en-17β-ol | 43 g | CC=1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O | C20H32O
reactant | water | O | H2O
solvent | acetone | 170 ml | CC(=O)C | C3H6O
product | 3-methyl-5α-androst-2-en-17-one | 35.7 g | CC=1C[C@@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C20H30O
